US03991076
A solution of 3.0 g (0.013 mole) of 3-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one, 1.33 g of 3-dimethylaminopropylamine, 20 ml. of ethanol, and one drop of concentrated hydrochloric acid is heated under reflux under nitrogen for 1.5 hours, and then cooled to ambient temperature. The reaction mixture is treated with 4 ml. of saturated ethereal hydrogen chloride and diluted to the cloud point with ether. The solid which separates is collected and recrystallized from ethanol to provide colorless crystals of 1-(3-dimethylaminopropyl)-2-phenyl-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole hydrochloride, m.p. 225° to 227° C. dec.

reactant | 3-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one | 0.013 mole, 3.0 g | C(C(=O)C1=CC=CC=C1)C1CSCCC1=O | C13H14O2S
reactant | 3-dimethylaminopropylamine | 1.33 g | CN(CCCN)C | C5H14N2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(3-dimethylaminopropyl)-2-phenyl-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole hydrochloride | Cl.CN(CCCN1C2=C(C=C1C1=CC=CC=C1)CSCC2)C | InChI=1S/C18H24N2S.ClH/c1-19(2)10-6-11-20-17-9-12-21-14-16(17)13-18(20)15-7-4-3-5-8-15;/h3-5,7-8,13H,6,9-12,14H2,1-2H3;1H
